US06911464B2
A solution of (3R)-3-amino-3-(3-ethoxy-4-methoxy-phenyl)-propan-1-ol (1.1 g, 4.9 mmol), 2-bromomethyl-6-(cyclopropanecarbonyl-amino)-benzoic acid methyl ester (1.5 g, 4.8 mmol) and triethylamine (0.75 mL, 5.4 mmol) in DMF (10 mL) was heated at 100° C. for 18 h. The solvent was removed in vacuo. The residue was extracted with ethyl acetate (50 mL) and water (50 mL). The organic layer was washed with HCl (1N, 50 mL), brine (50 mL), and dried over MgSO4. The solvent was removed in vacuo to give an oil. The oil was stirred in ether (5 mL) and hexane (5 mL) to give a suspension. The suspension was filtered to give (1R)-cyclopropanecarboxylic acid {2-[1-(3-ethoxy-4-methoxy-phenyl)-3-hydroxy-propyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide as a white solid (1.3 g, 64% yield): mp, 103-105° C.; 1H NMR (CDCl3) δ 0.86-0.93 (m, 2H, CH2), 1.08-1.12 (m, 2H, CH2), 1.44 (t, J=7 Hz, 3H, CH3), 1.64-1.73 (m, 1H, CH), 2.11-2.32 (m, 2H, CH2), 3.37 (dd, J=4, 9 Hz, 1H, OH), 3.50-3.59 (m, 1H, CHH), 3.74-3.79 (m, 2H, NCHH, CHH), 3.80 (s, 3H, CH3), 4.06 (q, J=7 Hz, 2H, CH2), 4.16 (d, J=18 Hz, 1H, NCHH), 6.65 (dd, J=4, 11 Hz, 1H, NCH), 6.83-6.99 (m, 4H, Ar), 7.44 (t, J=8 Hz, 1H, Ar), 8.45 (d, J=8 Hz, 1H, Ar), 10.52 (s, 1H, NH); 13C NMR (CDCl3) δ 8.35, 14.77, 16.22, 33.85, 46.23, 50.52, 55.98, 58.59, 64.55, 111.36, 112.99, 116.77, 116.99, 117.83, 119.77, 130.73, 133.37, 138.05, 141.49, 148.62, 149.25, 170.33, 172.76; Anal Calcd for C24H28N2O5: C, 67.91; H, 6.65; N, 6.60. Found: C, 67.92; H, 6.67; N, 6.37.

reactant | (3R)-3-amino-3-(3-ethoxy-4-methoxy-phenyl)-propan-1-ol | 4.9 mmol, 1.1 g | N[C@H](CCO)C1=CC(=C(C=C1)OC)OCC | C12H19NO3
reactant | 2-bromomethyl-6-(cyclopropanecarbonyl-amino)-benzoic acid methyl ester | 4.8 mmol, 1.5 g | COC(C1=C(C=CC=C1NC(=O)C1CC1)CBr)=O | C13H14BrNO3
reactant | triethylamine | 5.4 mmol, 0.75 mL | C(C)N(CC)CC | C6H15N
reactant | hexane | 5 mL | CCCCCC | C6H14
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ether | 5 mL | CCOCC | C4H10O
product | (1R)-cyclopropanecarboxylic acid {2-[1-(3-ethoxy-4-methoxy-phenyl)-3-hydroxy-propyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide | 1.3 g, 64% yield | C(C)OC=1C=C(C=CC1OC)[C@@H](CCO)N1CC2=CC=CC(=C2C1=O)NC(=O)C1CC1 | C24H28N2O5
